US06921759B2
A mixture of taurine (12.5 g, 100 mmol), benzyl chloroformate (15.1 mL, 105 mmol) and sodium carbonate (10.6 g, 100 mmol) in water (250 mL) was stirred at room temperature for overnight. The product mixture was extracted with diethyl ether. The organic extract was concentrated under vacuum to provide 2-{[(benzyloxy)carbonyl]-amino}ethanesulfonic acid. Without further purification, the sulfonic acid was treated with thionyl chloride (15 mL, 206 mmol) with external ice-water bath cooling. The resultant mixture was stirred at room temperature for 1 hour, and poured into ice water. The mixture was extracted with diethyl ether. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to provide the title compound as white solid.

reactant | taurine | 100 mmol, 12.5 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | benzyl chloroformate | 105 mmol, 15.1 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | 100 mmol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 250 mL | O | H2O
product | 2-{[(benzyloxy)carbonyl]-amino}ethanesulfonic acid | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)O | C10H13NO5S
